US08791161B2
5-chloro-2-(((1-propyl-1H-imidazol-4-yl)methyl)thio)aniline
(1-propyl-1H-imidazol-4-yl)methanol (535 mg, 3.11 mmol) was first treated with SOCl2 (3 ml) in CH2Cl2 (5 ml) at 35° C. for 2 hrs. The solvent was removed to get a crude 4-(chloromethyl)-1-propyl-1H-imidazole. Then following General Procedure A, the title compound (587 mg, 67%) was prepared from 2-amino-4-chlorobenzenethiol (744 mg, 4.66 mmol), 4-(chloromethyl)-1-propyl-1H-imidazole, K2CO3 (2.1 g, 15.54 mmol) in DMF (10 ml).

reactant | 2-amino-4-chlorobenzenethiol | 4.66 mmol, 744 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 4-(chloromethyl)-1-propyl-1H-imidazole | ClCC=1N=CN(C1)CCC | C7H11ClN2
reactant | K2CO3 | 15.54 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-(((1-propyl-1H-imidazol-4-yl)methyl)thio)aniline | 587 mg, 67% | ClC=1C=CC(=C(N)C1)SCC=1N=CN(C1)CCC | C13H16ClN3S
